US06177440B1
A solution of the 9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-4-hydroxy-5-carbomethoxy carbazole (1.10 g, 2.31 mM) in 35 ml THF and 140 mL concentrated aqueous ammonium hydroxide was sonicated for 6 hours at 30-40° C. The precipitated solid was filtered and washed with water. Trituration with Et2O, then with 2:1 Et2O/CH2Cl2 afforded 0.20 g (19%) of the 9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-4-hydroxy-5-carbamoyl carbazole. 1H NMR (DMSO-d6) δ 10.8 (s, 1H), 8.9 (bs, 1H), 8.45 (bs, 1H), 8.0 (d, J=8 Hz, 2H), 7.8 (d, J=8 Hz, 2H), 7.6 (s, 1H), 7.5 (m, 2H), 7.3-7.1 (m, 6H), 7.0 (s, 1H), 5.8 (s, 2H). MS (ES) m/e 444, 461.

reactant | 9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-4-hydroxy-5-carbomethoxy carbazole | 2.31 mM, 1.10 g | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C1=CC=C(C=C1)C(F)(F)F)O)C(=O)OC | C28H20F3NO3
reactant | ammonium hydroxide | 140 mL | [OH-].[NH4+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-4-hydroxy-5-carbamoyl carbazole | 0.20 g, 19% | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C1=CC=C(C=C1)C(F)(F)F)O)C(N)=O | C27H19F3N2O2
